Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Fish derived
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ y/o F with a history of pancreatic CA and 
breast CA on  FOLFIRINOX, started in ___ who presents with 
BRBPR. 

Ms. ___ has had a complicated course starting in ___ with intiation of chemotherapy. Since that time she has had 
diarrhea related to chemo, pancreatic insufficiency, and 
medications. She was admitted at ___ with diarrhea in 
___, then admitted to ___ a few days later with neutropenic 
fever. She remained hospitalied until mid ___ at which time 
she was discharged to rehab. She was discharged home from rehab 
___. She has continued to feel weak and deconditioned, but no 
more so than her recent baseline. 

On ___ she was seen by her oncologist to resume chemotherapy, 
however it was felt that she was not yet strong enough to do so. 
___ morning, she awoke to use the restroom and had a bloody 
BM. She then had a second bloody BM which consisted of "clots." 
She called her oncologist right away and was referred to the ED. 


She has not had any nausea or vomiting. No abdominal pain. No 
fevers or chills. No urinary symptoms. She has not had any 
further episodes of BRBPR. Her baseline HCT has been ___.

Initial vitals: 98.0 96 119/65 16 98% ra 
Transfer vitals: 97.5 79 106/54 16 98% RA 
Meds: She was given metoprolol, omeprazole, and amiodarone (home 
meds)
IVF: 1L NS
Access: 20g POC
Labs: Notable for HCT of 31.5 (recent baseline ___

ROS: Positive for BRBPR, fatigue, and "feeling tired". Negative 
for abd pain, fevers, chills, nausea, vomiting, body aches, 
constipation, dysuria frequency, SOB, CP, palps. All other 
review of systems negative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
Pancreatic Cancer:
___- presented with abdominal pain; CT A/P showed Pancreatic 
head mass measuring approximately 41 x 37 mm abutting and likely 
encasing the SMA and partially encasing the SMV; a pancreatic 
head mass abutted the confluence of the splenic vein and SMV 
with thrombus or tumor extension in the portal vein with 
dilatation of the pancreatic duct within the body and tail of 
the pancreas. There were small mesenteric lymph nodes which were 
felt to be nonspecific.
___- EUS (Dr. ___ showed pancreatic head mass with 
cytology positive for adenocarcinoma
___- developed biliary obstruction s/p placement of stent 
with normalization of LFTs
___- Diagnostic laparoscopy with Port-A-Cath placement (Dr. 
___- Peritoneal washings negative for malignant cells
___- Start FOLFIRINOX
Began to have diarrhea 3 days later, took imodium.
___ Admitted ___ with diarrhea, dehydration, chest 
pain. C. Diff negative, treated with fluids, imodium.
___ At home, continued to have diarrhea but less. Yesterday 
2 episodes, controlled with 2 doses of imodium.

Breast Cancer: 
___- noticed new left breast mass
___- mammogram normal
___- FNA left breast with malignant cells
___- bilateral breast MRIs: left with enhancement in known 
cancer (extending over 7.4 cm) and in axillary lymph node; right 
breast MRI with multiple high-signal areas likely representing 
cysts, as well as intermediate-signal region in central, 
slightly inner breast; u/s did not show lesion; repeat bilateral 
mammogram showed evid of left cancer as well as satellite lesion
___- core biopsy left breast mass with grade III, invasive 
ductal carcinoma, ER/PR-positive and her2neu negative; FNA left 
axillary node positive for malignant cells
___- CT C/A/P with small lung nodules; multiple small 
mediastinal lymph nodes; no definite evidence of mets; bone scan 
prelim negative for mets; ECHO with normal cardiac fx
___- started dose dense AC 
___- taxol
___- right breast lumpectomy and axillary lymph node 
dissection with 1.3 cm, grade III, invasive ductal carcinoma 
with LVI and no EIC; ___ score of 3 of 5; ___ nodes 
with cancer; ER/PR-positive and her2neu negative.
___  Arimidex
___- XRT
 
PAST MEDICAL HISTORY:  
hyperlipidemia, hiatal hernia, basal cell carcinoma, osteopenia,
varicose vein surgery, tonsils and adenoidectomy in childhood.

 
Social History:
___
Family History:
Per OMR
Mother - multiple myeloma at ___ and died at ___
Father - lymphoma and passed away at ___
Maternal Aunt - colon cancer at ___ 
Maternal 2 uncles - prostate cancer
___ Cousin - lung cancer 
___ Cousin - died of pancreatic cancer
Paternal cousin - died in her ___ from ovarian cancer
 
Physical Exam:
Admission Exam: 
VS: 98.1 113/59 88 18 97% on RA
Pain: ___ 
Gen: Chronically ill, elderly, NAD
HEENT: Anicteric, MMM
Cardiac: Normal rate, irregularly irregular
Resp: CTAB
GI: Soft, NT, ND, NABS, no rebound or guarding
Skin: No rash on limited exam
Neuro: No gross deficits on limited exam
Pulses: 2+ radial

 
Pertinent Results:
Admission Labs: 
___ 05:30PM BLOOD WBC-5.2# RBC-3.15* Hgb-10.4* Hct-31.5* 
MCV-100* MCH-33.1* MCHC-33.1 RDW-15.2 Plt ___
___ 05:30PM BLOOD Glucose-104* UreaN-8 Creat-0.6 Na-139 
K-3.5 Cl-107 HCO3-24 AnGap-12

Urine:
___ 09:51PM URINE Color-Yellow Appear-Hazy Sp ___
___ 09:51PM URINE RBC-14* WBC-28* Bacteri-FEW Yeast-NONE 
Epi-1
___ 09:51PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-6.0 Leuks-MOD

# ___: 83,509
# Colonoscopy (___): Diverticulosis of the sigmoid colon and 
descending colon. Otherwise normal colonoscopy to cecum
. 

 
Brief Hospital Course:
Ms. ___ is a ___ y/o F with a history of pancreatic CA, breast 
CA recent FOLFIRINOX ___ presenting with BRBPR. 

# Acute blood loss anemia secondary to a lower GI bleed: Ms. 
___ was admitted with hematochezia.  However, throughout this 
stay, her HCT remained stable, she had normal BUN/Creatinine, 
and originally described "not a lot of blood loss".  
Furthermore, there was no further GI bleed during this stay.  
Due to these factors, the bleeding was considered a small volume 
lower GI bleed. Serial Hct was stable on discharge.  Mult prior 
stool c.diff were neg; there was no evidence of hemorrhoids on 
exam; and the previous colonoscopy ___ yrs ago had no significant 
abnls that would account for more recent bleed 
(AVM/diverticulosis) which would warrant further evaluation.  

# Pancreatic cancer complicated by diarrhea: Ms ___ cancer 
treatment was postponed due to functional status. It is possible 
that she will be continued on gemcitibine, however a more recent 
___ was markedly elevated ___ (80,000) - given the concern 
of further expansion.  ___ oncology was involved and consulted. 
 A torso CT scan was attempted but unable to be performed d/t 
concern of IV dye allergy (plus pt did not want to take 
prednisone and had significant diarrhea w/the oral contrast).  
As a result this can be obtained as an outpt.  Creon was 
continued in house. 

# CV: Atrial fibrillation: 
- rate control with metoprolol, amiodarone
- ASA

# OTHER ISSUES AS OUTLINED. 
. 
#FEN:   [] IVF   [X] Oral   [] NPO   [] Tube Feeds   [] 
Parenteral
#DVT PROPHYLAXIS: [X]heparin sc, PPI
#LINES/DRAINS:   [X] Peripheral   [] PICC   [] CVL   [] Foley
#PRECAUTIONS: [] Fall   [] Aspiration   [] 
MRSA/VRE/CDiff/ESBL/Droplet /Neutropenic
#COMMUNICATION: health care proxy: ___ 
Relationship: Husband 
Phone number: ___ 
Cell phone: ___ 
#CONSULTS: ___ Onc
#CODE STATUS: [X]presumed full code []DNR/DNI

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Omeprazole 20 mg PO BID 
4. Zenpep (lipase-protease-amylase) 10,000-34,000 -55,000 unit 
oral QID 
5. Amiodarone 200 mg PO BID 
6. Metoprolol Tartrate 6.25 mg PO BID 

 
Discharge Medications:
1. Amiodarone 200 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Metoprolol Tartrate 6.25 mg PO BID 
5. Omeprazole 20 mg PO BID 
6. Zenpep (lipase-protease-amylase) 10,000-34,000 -55,000 unit 
oral QID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
- Hematochezia
- Pancreatic CA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure looking after you, Ms. ___.  As you know, 
you were admitted for blood in the stools.  You were observed 
for ~ 48hrs and was found to have a stable RBC count.  There 
were no further episodes of bleeding.  Given that there was no 
reduction in blood count, a colonscopy was not performed.  
   To follow the status of the pancreatic cancer and due to 
elevated tumor markers, CT scan of the torso was attempted, but 
was forestalled due to concern of IV dye allergy reactions.  
This can be performed as an outpatient as needed.
   Please do not change any of your home medications.  The 
regimen remains the same.
 
Followup Instructions:
___